US06048841
Intermediate 1 (S)--N--(Benzyloxycarbonyl)leucinal
A solution of (S)--N--(benzyloxycarbonyl)leucine methyl ester (8.22 g, 29.4 mmol) in dry toluene (80 ml) was treated dropwise at -78° C. with a solution of di-iso-butylaluminium hydride (1.0 M, 74 ml, 74 mmol) in toluene. The solution was stirred at -78° C. for 30 min. before methanol (3.5 ml) was added to quench the reaction. The cold mixture was then added to a stirred aqueous solution of potassium hydrogen tartrate (200 ml). After further stirring for 1 hour the mixture was extracted with ether (3×200 ml), the combined extracts washed with brine (400 ml), dried (MgSO4) and evaporated in vacuo to provide the title compound as a colourless oil. This material was used without purification in the next step.

reactant | (S)--N--(benzyloxycarbonyl)leucine methyl ester | 29.4 mmol, 8.22 g | COC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O | C15H21NO4
reactant | di-iso-butylaluminium hydride | 74 mmol, 1.0 M, 74 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methanol | 3.5 ml | CO | CH4O
reactant | potassium hydrogen tartrate | 200 ml | C(=O)(O)C(O)C(O)C(=O)[O-].[K+]
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | (S)--N--(Benzyloxycarbonyl)leucinal | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C=O | C14H19NO3
